US09376433B2
A mixture of 3-(4-tert-butyl-phenylethynyl)-isonicotinic acid methyl ester (786 mg, 2.68 mmol) and polyphosphoric acid (10 g) is heated to 80° C. and stirred at this temperature for three days. The reaction mixture is allowed to cool to room temperature and water is added. The resulting precipitate is filtered off, washed with water and dried under vacuum to afford 3-(4-tert-butyl-phenyl)-pyrano[4,3-c]pyridin-1-one as olive green powder; HPLC/MS 2.16 min (A), [M+H] 280;

reactant | 3-(4-tert-butyl-phenylethynyl)-isonicotinic acid methyl ester | 2.68 mmol, 786 mg | COC(C1=C(C=NC=C1)C#CC1=CC=C(C=C1)C(C)(C)C)=O | C19H19NO2
solvent | water | O | H2O
product | 3-(4-tert-butyl-phenyl)-pyrano[4,3-c]pyridin-1-one | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=2C=NC=CC2C(O1)=O | C18H17NO2
